US08349880B2
Step C (5) [79643-051]: Iodomethane (0.835 mL, 13.4 mmol) was added to a solution of 1-(3-fluoro-4-(5-methyl-1H-1,2,4-triazol-1-yl)phenyl)thiourea (3.21 g, 12.8 mmol) in absolute ethanol (100 mL). The resulting mixture was heated at 70° C. for 3 h. After cooling to rt, the reaction was concentrated in vacuo. The residual volatiles were removed under high vacuum to afford methyl 3-fluoro-4-(5-methyl-1H-1,2,4-triazol-1-yl)phenylcarbamimidothioate, hydroiodide (4.82 g, 96% yield) as a white solid. LC-MS (M+H)+ 266.0. 1H NMR (500 MHz, DMSO-d6) δ ppm 8.12 (s, 1 H), 7.77 (t, J=8.5 Hz, 1 H), 7.64 (dd, J=11.0, 2.1 Hz, 1 H), 7.37 (dd, J=8.4, 1.4 Hz, 1 H), 2.72 (s, 3 H), 2.36 (s, 3 H).

reactant | Iodomethane | 13.4 mmol, 0.835 mL | IC | CH3I
reactant | 1-(3-fluoro-4-(5-methyl-1H-1,2,4-triazol-1-yl)phenyl)thiourea | 12.8 mmol, 3.21 g | FC=1C=C(C=CC1N1N=CN=C1C)NC(=S)N | C10H10FN5S
solvent | ethanol | 100 mL | C(C)O | C2H6O
product | methyl 3-fluoro-4-(5-methyl-1H-1,2,4-triazol-1-yl)phenylcarbamimidothioate, hydroiodide | 4.82 g, 96% yield | I.FC=1C=C(C=CC1N1N=CN=C1C)NC(=N)SC | InChI=1S/C11H12FN5S.HI/c1-7-14-6-15-17(7)10-4-3-8(5-9(10)12)16-11(13)18-2;/h3-6H,1-2H3,(H2,13,16);1H
